US04141898
1-(2,3-dichlorobenzyl)imidazo[1,2-a]pyridinium chloride;
1-(3,5-dichlorobenzyl)imadazo[ 1,2-a]pyridinium chloride; 1-(3,4-dichlorobenzyl)-imidazo[1,2-a]pyridinium bromide; 1-(2-methoxybenzyl)imidazo[1,2-a]pyridinium bromide; 1-(3-methoxybenzyl)imidazo[1,2-a]pyridinium chloride; 1-(3-cyanobenzyl)imidazo[1,2-a]pyridinium iodide; 1-(3-bromobenzyl)imidazo[1,2-a]pyridinium bromide; 1-(3-fluorobenzyl)imidazo[1,2-a]pyridinium bromide; 1-(3-phenylbenzyl)imidazo[1,2-a]pyridinium chloride; 1-(3-sulfamoylbenzyl)imidazo[1,2-a]pyridinium chloride; 1-(2-methylsulfonylbenzyl)imidazo[1,2-a]pyridinium chloride; 1-(4-trifluoromethylbenzyl)imidazo[1,2-a]pyridinium bromide; and 1-(3-furfuryl)imidazo[1,2-a]pyridinium bromide.

reactant | 1-(3,4-dichlorobenzyl)-imidazo[1,2-a]pyridinium bromide | [Br-].ClC=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1Cl
reactant | 1-(2-methoxybenzyl)imidazo[1,2-a]pyridinium bromide | [Br-].COC1=C(C[N+]=2C=CN3C2C=CC=C3)C=CC=C1
reactant | 1-(3-methoxybenzyl)imidazo[1,2-a]pyridinium chloride | [Cl-].COC=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1
reactant | 1-(3-cyanobenzyl)imidazo[1,2-a]pyridinium iodide | [I-].C(#N)C=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1
reactant | 1-(3-bromobenzyl)imidazo[1,2-a]pyridinium bromide | [Br-].BrC=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1
reactant | 1-(3-fluorobenzyl)imidazo[1,2-a]pyridinium bromide | [Br-].FC=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1
reactant | 1-(3-phenylbenzyl)imidazo[1,2-a]pyridinium chloride | [Cl-].C1(=CC=CC=C1)C=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1
reactant | 1-(3-sulfamoylbenzyl)imidazo[1,2-a]pyridinium chloride | [Cl-].S(N)(=O)(=O)C=1C=C(C[N+]=2C=CN3C2C=CC=C3)C=CC1
reactant | 1-(2-methylsulfonylbenzyl)imidazo[1,2-a]pyridinium chloride | [Cl-].CS(=O)(=O)C1=C(C[N+]=2C=CN3C2C=CC=C3)C=CC=C1
reactant | 1-(4-trifluoromethylbenzyl)imidazo[1,2-a]pyridinium bromide | [Br-].FC(C1=CC=C(C[N+]=2C=CN3C2C=CC=C3)C=C1)(F)F
product | 1-(2,3-dichlorobenzyl)imidazo[1,2-a]pyridinium chloride | [Cl-].ClC1=C(C[N+]=2C=CN3C2C=CC=C3)C=CC=C1Cl | InChI=1S/C14H11Cl2N2.ClH/c15-12-5-3-4-11(14(12)16)10-18-9-8-17-7-2-1-6-13(17)18;/h1-9H,10H2;1H/q+1;/p-1
